US07405221B2
Step B: 2-(3,4-Difluorophenoxy)-4-(N-pyrrolidinyl)-5-[4-chlorophenyl]-6-[2,4-dichlorophenyl]pyrimidine
2-(Methylsulfonyl)-4-(N-pyrrolidinyl)-5-(4-chlorophenyl)-6-(2,4-dichlorophenyl)pyrimidine (24 mg, 0.05 mmol) was treated with 3,4-difluorophenol by the same general procedure described in Reference Examples 6 and 7. Workup and flash column chromatography on silica gel (eluted with 70/30 hexanes/ethyl acetate) afforded the title compound. HPLC/MS: m/e=534 (M++1); Rt=4.39 min. 1H-NMR 500 MHz (CDCl3): δ 1.80 (bs, 4H), 3.2 (bs, 4H), 6.85-7.28 (m, 10H).

reactant | 2-(Methylsulfonyl)-4-(N-pyrrolidinyl)-5-(4-chlorophenyl)-6-(2,4-dichlorophenyl)pyrimidine | 0.05 mmol, 24 mg | CS(=O)(=O)C1=NC(=C(C(=N1)N1CCCC1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C21H18Cl3N3O2S
reactant | 3,4-difluorophenol | FC=1C=C(C=CC1F)O | C6H4F2O
product | 2-(3,4-Difluorophenoxy)-4-(N-pyrrolidinyl)-5-[4-chlorophenyl]-6-[2,4-dichlorophenyl]pyrimidine | FC=1C=C(OC2=NC(=C(C(=N2)N2CCCC2)C2=CC=C(C=C2)Cl)C2=C(C=C(C=C2)Cl)Cl)C=CC1F | C26H18Cl3F2N3O
